US04170465
A mixture of 36.6 g of N-cyclohexyl-acetylacetamide, 32 g of methyl orthoformate, 100 ml of methanol and 1 g of p-toluene sulfonic acid was stirred for 4 hours at 25° C. and after the addition of 2 g of quinoline, the mixture was evaporated to dryness under reduced pressure. The residue was added to isopropyl ether and the mixture was cooled and vacuum filtered. The recovered precipitate was dried to obtain 40 g of N-cyclohexyl-3,3-dimethoxy-butyramide melting at 66° C.

reactant | N-cyclohexyl-acetylacetamide | 36.6 g | C1(CCCCC1)NC(CC(C)=O)=O | C10H17NO2
reactant | methyl orthoformate | 32 g | C(OC)([O-])[O-]
reactant | methanol | 100 ml | CO | CH4O
catalyst | p-toluene sulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | quinoline | 2 g | N1=CC=CC2=CC=CC=C12 | C9H7N
product | N-cyclohexyl-3,3-dimethoxy-butyramide | 40 g | C1(CCCCC1)NC(CC(C)(OC)OC)=O | C12H23NO3
